US09278915B2
Compound 91: 3-{4-[(4-{[(2Z)-2-(Methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}hexanoic acid
To a 25 mL RB flask fitted with magnetic stirrer was charged with 3 mL of tetrahydrofuran. To the stirred solvent were added methyl 3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}hexanoate (0.017 g, 0.03 mmol), methanol (0.5 mL) and sodium hydroxide (0.013 g, 0.32 mmol) in water (0.5 mL). After addition, the reaction mixture was stirred at room temperature 30 minutes. The reaction mixture was concentrated to distill off the solvent; the crude was washed with diethyl ether (5 mL). The salt was dissolved in water (1 mL) and the aqueous layer was acidified with saturated citric acid to solution to make pH 6. The aqueous layer was extracted with ethyl acetate (5 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The crude material was purified by preparative TLC using methanol and chloroform as eluents. The product was obtained as white semi solid (0.012 g, yield: 24.73%). MS (ESI, 120 ev): m/z=462.1 (M+H)+.

reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
reactant | methyl 3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}hexanoate | 0.03 mmol, 0.017 g | CO\N=C(/COC1=CC=C(COC2=CC=C(C=C2)C(CC(=O)OC)CCC)C=C1)\C1=CC=CC=C1 | C29H33NO5
reactant | methanol | 0.5 mL | CO | CH4O
reactant | sodium hydroxide | 0.32 mmol, 0.013 g | [OH-].[Na+]
solvent | water | 0.5 mL | O | H2O
product | 3-{4-[(4-{[(2Z)-2-(Methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}hexanoic acid | 0.012 g, yield: 24.73% | CO\N=C(/COC1=CC=C(COC2=CC=C(C=C2)C(CC(=O)O)CCC)C=C1)\C1=CC=CC=C1 | C28H31NO5
